US07601844B2
n-BuLi (2.5 M, 2 mL, 5.21 mmol) was added into a solution of 4-bromo-1,2-dichlorobenzene (1.07 g, 4.74 mmol) in dry THF (10 mL) at −78° C. The mixture was stirred for 20 mins and then a solution of tert-butyl 4-oxopiperidine-1-carboxylate (0.95 g, 4.74 mmol) in THF (5 mL) was added. The mixture was further stirred at −78° C. for 1 h. After this time, the reaction was quenched with NH4Cl (aq., 15 mL), extracted with ethyl acetate (50 mL×3), dried over Na2SO4 and concentrated to yield a residue. The residue was purified by flash chromatography using 10-30% ethyl acetate in hexanes as an eluent to provide tert-butyl 4-(3,4-dichlorophenyl)-4-hydroxypiperidine-1-carboxylate (1.6 g, 90% purity, 88% yield) as a colorless oil. MS found: 346.3 (M+).

reactant | n-BuLi | 5.21 mmol, 2.5 M, 2 mL | [Li]CCCC
reactant | 4-bromo-1,2-dichlorobenzene | 4.74 mmol, 1.07 g | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 4.74 mmol, 0.95 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(3,4-dichlorophenyl)-4-hydroxypiperidine-1-carboxylate | 1.6 g, 88% yield | ClC=1C=C(C=CC1Cl)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C16H21Cl2NO3
